US04948796
6.67 g of ethyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate and 5.69 g of 3-bromopyridine were dissolved in 13.3 ml of hexamethyl phosphoric triamide. To the solution were added 4.15 g of potassium carbonate and 0.57 g of a copper powder. The mixture was stirred for 3 hours at 160° C. in a nitrogen atmosphere. The reaction mixture was mixed with 100 ml of ice water and 100 ml of ethyl acetate. The resulting insolubles were removed by filtration. An organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: benzene/ethyl acetate=10/1) to obtain 1.93 g of light yellow oily ethyl (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]acrylate.

reactant | ethyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate | 6.67 g | OC1=C(C=C(C=C1)/C=C/C(=O)OCC)OC | C12H14O4
reactant | 3-bromopyridine | 5.69 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | hexamethyl phosphoric triamide | 13.3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
catalyst | copper | 0.57 g | [Cu] | Cu
product | ethyl (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]acrylate | 1.93 g | COC=1C=C(C=CC1OC=1C=NC=CC1)/C=C/C(=O)OCC | C17H17NO4
